US07834021B2
8-[2-(Hydroxymethyl)phenyl]-1,4-dioxaspiro[4.5]decan-8-ol.
To a solution of 2-bromobenzyl alcohol (3.0 g, 16 mmol) in THF (40 mL) cooled at −78° C. was added a 2.5 M solution of n-BuLi in hexanes (14.1 mL). The mixture was stirred at −4° C. for 1 hour and cooled back to −78° C. To it was added a solution of 1,4-cyclohexanedione mono-ethylene ketal (2.5 g, 16 mmol) in THF (10 mL) over 15 minutes. Stirring was continued at −78° C. for 30 minutes and at −4° C. for 1 hour. The reaction was quenched by addition of a solution of NH4Cl in water. The resulting solution was extracted with EtOAc three times. The combined extract was washed with brine, dried over MgSO4 and concentrated. Purification on silica gel eluting with 5% MeOH/CH2Cl2 provided the title compound. MS calculated (M+H)+ 265, found 287 (M+Na)+.

reactant | 2-bromobenzyl alcohol | 16 mmol, 3.0 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | n-BuLi | [Li]CCCC
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 16 mmol, 2.5 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-[2-(Hydroxymethyl)phenyl]-1,4-dioxaspiro[4.5]decan-8-ol | OCC1=C(C=CC=C1)C1(CCC2(OCCO2)CC1)O | C15H20O4
